US05308854
Step D: Preparation of 2-methoxy-3-hydroxy-5-ethyl-6-methylpyridine
A batch of 2-methoxy-3-amino-5-ethyl-6-methylpyridine (171 mg, 1.05 mmol) was dissolved in 5% aqueous sulfuric acid (4 mL), cooled in an ice bath, then a solution of sodium nitrite (78 mg, 1.13 mmol) in water (1 mL) was added dropwise. After 0.5 hour, the resulting mixture was added dropwise to 5% aqueous sulfuric acid (6 mL) warmed at 110° C. The solution was stirred for 0.5 hour, cooled and the product extracted into chloroform, then dried (Na2SO4), filtered and evaporated to yield 77 mg (43%) of product.

reactant | 2-methoxy-3-amino-5-ethyl-6-methylpyridine | 1.05 mmol, 171 mg | COC1=NC(=C(C=C1N)CC)C | C9H14N2O
reactant | sodium nitrite | 1.13 mmol, 78 mg | N(=O)[O-].[Na+]
solvent | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 mL | O | H2O
solvent | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
product | 2-methoxy-3-hydroxy-5-ethyl-6-methylpyridine | 77 mg, 43% | COC1=NC(=C(C=C1O)CC)C | C9H13NO2
